US06399616B1
Step 1: 1-Benzyl-4-bromo-1H-pyrrolo[3,2-c]pyridine
35 g of N-bromosuccinimide are added to a solution of 52 g of triphenylphosphine in 1.5 l of dioxane. After stirring the mixture for 1 hour, 9 g of 1-benzyl-1,5-dihydro-pyrrolo[3,2-c]pyridin-4-one in 200 ml of dioxane are added and the mixture is heated at reflux for 15 hours. After removal of the dioxane under reduced pressure, 100 ml of triethylamine are added to the residue and the whole is then concentrated in vacuo. Chromatography on silica gel (cyclohexane/ethyl acetate: 50/50) enables the expected product to be isolated.

reactant | N-bromosuccinimide | 35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-benzyl-1,5-dihydro-pyrrolo[3,2-c]pyridin-4-one | 9 g | C(C1=CC=CC=C1)N1C=CC=2C(NC=CC21)=O | C14H12N2O
solvent | dioxane | 1.5 l | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1-Benzyl-4-bromo-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1C=CC=2C(=NC=CC21)Br | C14H11BrN2
